Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
PEPPERS
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___
1. Diagnostic laparoscopy.
2. Lysis of adhesions.
3. Drainage of abscess.

 
History of Present Illness:
Pt is ___ y/o F with h/o atrial fibrillation who presents
with worsening lower abdominal pain for past week and a half.  
Pt
did have diarrhea earlier in the week, but currently is feeling
constipated.  No nausea/vomiting.  Pt also denies fevers but is
having chills.  Pt presented to ___ where she was 
noted
to be hypotensive with BP in ___ and in atrial fibrillation.  Pt
was resuscitated with 7L crystalloid prior to being transferred
to ___ ED.  Last colonoscopy was more than ___ years ago.  Pt
did have right breast lumpectomy for DCIS earlier in the week. 
 
Past Medical History:
PMH: 
- Chronic atrial fibrillation
- Hypertension.
PSH:
- Tonsillectomy.
- Appendectomy.
- D&C.
- Fibroid ablation.
-S/P Right breast lumpectomy for DCIS
-S/P Reexploration R breast for more tissue sampling
 
Social History:
___
Family History:
Aunt with breast cancer.  Father with lung cancer.  Brother with 
prostate cancer.

 
Physical Exam:
Temp 97.8  P ___  BP 98/60  R 16  SaO2 98% RA
Gen: no acute distress
Heent: no scleral icterus
neck: supple
Lungs: clear
Heart: irregular rate and rhythm
abd: soft, nondistended, moderately tender in lower abdomen
rectal: no masses, guaiac negative
Extrem: no edema

 
Pertinent Results:
___ 03:35AM   WBC-7.3 RBC-3.14*# HGB-8.7*# HCT-26.2*# 
MCV-84 MCH-27.7 MCHC-33.2 RDW-14.5
___ 03:35AM   NEUTS-79.7* BANDS-0 LYMPHS-15.2* MONOS-4.3 
EOS-0.7 BASOS-0.2
___ 03:35AM   PLT COUNT-279
___ 03:35AM   GLUCOSE-128* UREA N-12 CREAT-0.7 SODIUM-140 
POTASSIUM-3.3 CHLORIDE-109* TOTAL CO2-22 ANION GAP-12

___ CT Abd/pelvis :There is an irregular fluid collection in 
the pelvis with fluid surrounding the sigmoid colon.  The 
findings are likely due to
perforated diverticulitis and abscess formation.  The abscess 
appears
multilocular about 7 cm in diameter.  

___ CT Abd/pelvis :
1. Bilateral pleural effusions with associated compressive 
atelectasis.  
2. Some decrease in size of the main multiloculated pelvic fluid 
collection secondary to perforated sigmoid diverticulum.Smaller 
pockets of air and gas are seen surrounding the sigmoid colon.  
Again, the collection is not amenable to transcutaneous 
drainage. 

 
Brief Hospital Course:
Mrs. ___ was evaluated by the Acute Care team in the 
Emergency Room and subsequently admitted to the SICU for further 
management od her perfforated sigmoid diverticulitis as she was 
hypotensive and in rapid atrial fibrillation.  As she was fluid 
resuscitated her heart rate and blood pressure returned to 
normal.  She maintained NPO, bowel rest and IV antibiotics as a 
conservative treatment.  Her WBC was rising and her pain was 
controlled with narcotics.

Interventional Radiology was then consulted about drainage of 
her pelvic abscess but felt the area was too difficult to reach. 
A deciision was made to continue conservative treatment another 
day to see if she improved.  Unfortunately her WBC continued to 
rise and her abdominal pain persisted.  She was taken to the 
Operating Room on ___ and underwent an exploratory 
laparotomy with lysis of adhesions and drainage of pelvic 
abscess.  She tolerated the procedure well and returned to the 
SICU in stable condition.  She did require reintubation after 
arriving in the SICU as she was hypoventilating but was easily 
extubated the following day.

Following transfer to the surgical floor on ___ she 
continued to make steady progress.  She remained afebrile and 
her WBC was normal.  Her antibiotics were changed from IV Zosyn 
and Vancomycin to oral Cipro and Flagyl on ___.

Her creatinine was noted to be elevated to 1.4, she was given IV 
fluid bolus and labs were re-checked. Her other electrolytes 
were repleted as indicated. A renal ultrasound on ___ showed 
no obstruction. Her repeat Cr was 1.3 on ___ pm. She wished to 
go home at this time and she was ready for discharge on ___, 
with follow-up at ___. Patient was ambulating, tolerating 
diet at this time. 

It was noted that her TSH was elevated (7.2) during her hospital 
stay which she will need repeated as an outpatient during her 
follow up with her PCP.
 
Medications on Admission:
aspirin 325 mg daily
Plavix 75 mg daily
albuterol 90 mcg 2 puffs q4h prn sob
fluticasone 220 mcg 2 puffs daily
hctz 25 mg daily
metoprolol 100 mg bid

 
Discharge Medications:
1. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
2. metronidazole 500 mg Tablet Sig: ___ Tablets PO Q8H (every 8 
hours): thru ___.
Disp:*27 Tablet(s)* Refills:*0*
3. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours): thru ___.
Disp:*18 Tablet(s)* Refills:*0*
4. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation every four (4) hours as needed for shortness of 
breath or wheezing.  
5. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Complicated diverticulitis with abscess
2. Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital with abdominal pain due to a 
small hole on your colon. You eventually required operative 
drainage as bowel rest and antibiotics alone were ineffective.
* Currently you have improved and are able to tolerate a regular 
diet and stay well hydrated.
* Your right abdominal drain remains in place and should be 
emptied daily, noting the amount, color and consistency of the 
drainage.  Write the amounts down daily and bring this with you 
to your next appointment.
* You also need to follow up with Dr. ___ radiation 
oncology.  The treatments won't start right away but you will 
meet with him on ___ and discuss a plan.
* If you develop any increased redness or drainage from your 
abdominal drain OR if you have fevers > 101, more abdominal pain 
or any new concerns please call your doctor or return to the 
Emergency Room.
 
Followup Instructions:
___